US08278335B2
Step 1. Ethyl 5-[(tert-butoxycarbonyl)amino]-1,3-thiazole-4-carboxylate
A solution of di-tert-butyl dicarbonate (21.5 ml, 93 mmol) in 40 mL acetonitrile was added dropwise to a vigorously stirred slurry of ethyl 5-amino-1,3-thiazole-4-carboxylate (7.98 g, 46.3 mmol), and DMAP (11.32 g, 93 mmol) in acetonitrile (110 mL). The solution was stirred for 2 hrs. A yellow precipitate was seen to form. The mixture was concentrated in vacuo. The resulting residue was slurried in tert-butanol (120 ml), placed in an oil bath at 85° C., and stirred for 36 hrs. The reaction was concentrated in vacuo and purified directly via flash chromatography (silica, 0-50% ethyl acetate/hexanes) to afford the title compound. LRMS (APCI) calc'd for (C11H17N2O4S) [M+H]+, 273.1; found 273.0.

reactant | di-tert-butyl dicarbonate | 93 mmol, 21.5 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 5-amino-1,3-thiazole-4-carboxylate | 46.3 mmol, 7.98 g | NC1=C(N=CS1)C(=O)OCC | C6H8N2O2S
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
catalyst | DMAP | 93 mmol, 11.32 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 110 mL | C(C)#N | C2H3N
product | Ethyl 5-[(tert-butoxycarbonyl)amino]-1,3-thiazole-4-carboxylate | C(C)(C)(C)OC(=O)NC1=C(N=CS1)C(=O)OCC | C11H16N2O4S
